US04684654
3-[3-(1H-Imidazol-1-yl)propyl]-2,4-(1H,3H)-quinazolinedione
A mixture of 4.0 g of 2-amino-N-[3-(1H-imidazol-1-yl)propyl]benzamide and 15 ml of ethyl chloroformate was heated in an oil bath at 95°-105° C. for 1.5 hours, dissolved in 50 ml of ethanol, and concentrated. The residue was mixed with 100 ml of ethanol and 3.2 g of potassium hydroxide, heated at reflux temperature for 3 hours and concentrated. The residue was dissolved in water and acidified with acetic acid to pH 6-7. The white precipitate was separated by filtration and recrystallized from ethanol. The desired product melted at 197°-200° C.

reactant | 2-amino-N-[3-(1H-imidazol-1-yl)propyl]benzamide | 4.0 g | NC1=C(C(=O)NCCCN2C=NC=C2)C=CC=C1 | C13H16N4O
reactant | ethyl chloroformate | 15 ml | ClC(=O)OCC | C3H5ClO2
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 3-[3-(1H-Imidazol-1-yl)propyl]-2,4-(1H,3H)-quinazolinedione | N1(C=NC=C1)CCCN1C(NC2=CC=CC=C2C1=O)=O | C14H14N4O2
